US06133313
1-Bromotetradecane (3.0 g, 9.01 mmol) in THF (4 mL) was added dropwise and the resulting solution was warmed to room temperature and stirred overnight. The reaction was quenched with a saturated solution of NH4Cl (5 mL). The organic layer was removed and the aqueous layer extracted with ether (3×5 mL). The combined organic layers were washed with a saturated solution of NaHCO3 (1×5 mL), brine (1×5 mL), dried over MgSO4, filtered and concentrated. The crude residue was passed through a small silica gel plug and recrystallized in methanol to afford the 2-(octadecyl)furan compound (22) (2.61 g, 90% yield).

reactant | 1-Bromotetradecane | 9.01 mmol, 3.0 g | BrCCCCCCCCCCCCCC | C14H29Br
reactant | THF | 4 mL | C1CCOC1 | C4H8O
product | 2-(octadecyl)furan | 2.61 g, 90% yield | C(CCCCCCCCCCCCCCCCC)C=1OC=CC1 | C22H40O
